US06953570B2
4-[4′-Formyl-N.N-diphenylamino]benzyl acetate
DMF (2.63 g, 0.036 mol) was added to a three-neck flask (50 mL) equipped with a condenser, CaCl2 drying tube, and a glass stopper and cooled in an ice bath. Phosphorus oxychloride (1.8 g, 0.012 mol) was then added dropwise, and the resulting mixture stirred for 5 minutes and then allowed to warm slowly to room temperature. A solution of 4-(N,N-diphenylamino)benzyl acetate (1.88 g, 0.0059 mol) in DMF (20 mL) was then added dropwise. After addition was complete, the mixture was heated to 70° C. and stirred overnight. The mixture was then poured over ice (20 g) and the product obtained by filtration after slowly neutralizing the solution in an ice bath with saturated sodium acetate solution to pH 6. After washing with deionized water and drying, the product was recrystallized by dissolving in a small quantity of chloroform and pouring into excess hexane to yield the desired product (1.21 g, 60%). m.p. 86-89° C.; 1H NMR δ: 2.12(s, 2H, CH3), 5.09 (s, CH2), 7.0-7.37 (m, 12H, phenyl), 7.65-7.70 (d, 2H, phenyl), 9.81 (s, 1H, CHO). Analysis: Calculated for C22H19NO3: C, 76.52%; H, 5.51%; N, 4.06%. Found: C, 76.27%; H, 5.72%; N, 4.01%.

reactant | Phosphorus oxychloride | 0.012 mol, 1.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-(N,N-diphenylamino)benzyl acetate | 0.0059 mol, 1.88 g | C(C)(=O)OCC1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.036 mol, 2.63 g | CN(C)C=O | C3H7NO
product | 4-[4′-Formyl-N.N-diphenylamino]benzyl acetate | 1.21 g, 60% | C(C)(=O)OCC1=CC=C(C=C1)N(C1=CC=C(C=C1)C=O)C1=CC=CC=C1 | C22H19NO3
